US07220856B2
To a solution of 2,4,7-trichloroquinoline (150 mg, 0.685 mmol) in toluene (3 mL) was added a suspension of NaOMe (136 mg, 3.4 eq.) in toluene (3 mL). The mixture was refluxed at 130° C. for 24 h. After cooling to r.t. the solid was filtered and the filtrate was evaporated. The residue was dissolved in MeOH and evaporated to afford 2-methoxy-4,7-dichloroquinoline (139 mg) as an off-white solid. To it was added 1-N-Boc piperazine (455 mg, 4.0 eq.). The mixture was heated in a sealed tube at 150° C. for 3 h, additional piperazine (6 eq.) was added and treated with n-BuOH (2 mL). The reaction mixture was heated at the same temperature overnight. Evaporation of solvent under vacuum and flash chromatography on silica gel with AcOEt in hexane affords the corresponding t-butoxy-carbonylpiperazinylquinoline (20 mg), which was treated with TFA:DCM(1:1, 0.4 mL) at rt. for 1 h. Evaporation of the solvents and dilution with DCM and evaporation affords the corresponding unsubstituted piperazine as the TFA salt, which was dissolved in DCM (15 mL), in an ice bath. NEt3 (7 eq.) and 4-fluorophenylisocyanate (9 μl, 1.5 eq.) was added. After stirring at rt. for 3 h, the mixture was diluted with DCM and washed with water, followed by the usual work up. Flash chromatography on silica gel with MeOH in DCM afforded the title compound.

reactant | 2,4,7-trichloroquinoline | 0.685 mmol, 150 mg | ClC1=NC2=CC(=CC=C2C(=C1)Cl)Cl | C9H4Cl3N
reactant | NaOMe | 136 mg, 3.4 eq. | C[O-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methoxy-4,7-dichloroquinoline | 139 mg | COC1=NC2=CC(=CC=C2C(=C1)Cl)Cl | C10H7Cl2NO
